US04000275
6-(5-Carbomethoxypentanoyl)-3-methylbenzimidazo[2,1-b]-quinazolin-12(6H)one is prepared with 3-methylbenzimidazo[2,1-b]-quinazolin-12(6H)one and methyl 5-(chloroformyl)pentanoate.

reactant | 3-methylbenzimidazo[2,1-b]-quinazolin-12(6H)one | CC1=CC=C2C(N3C(=NC2=C1)NC1=C3C=CC=C1)=O | C15H11N3O
reactant | methyl 5-(chloroformyl)pentanoate | ClC(=O)CCCCC(=O)OC | C7H11ClO3
product | 6-(5-Carbomethoxypentanoyl)-3-methylbenzimidazo[2,1-b]-quinazolin-12(6H)one | C(=O)(OC)CCCCC(=O)N1C2=C(C=CC=C2)N2C1=NC1=CC(=CC=C1C2=O)C | C22H21N3O4
